US08426437B2
73.5 mL (360 mmol) of a 50% solution of ethyl glyoxalate in toluene then 3.6 ml, (36 mmol) of piperidine and 4.2 mL (72 mmol) of acetic acid are added to a solution of 24 g (180 mmol) of 1,3-dihydro-indol-2-one dissolved in 350 mL of ethanol. The reaction mixture is stirred at 70° C. for 20 hours then concentrated to a quarter by evaporation of the solvents under vacuum. The solid is filtered to give 18.3 g (47%) of (2-oxo-1,2-dihydro-indol-3-ylidene)-ethyl ethanoate in the form of an orange solid. The filtrate is evaporated, then recrystallized from ethanol to give an additional 2.7 g (7%) of (2-oxo-1,2-dihydro-indol-3-ylidene)-ethyl ethanoate in the form of an orange solid.

reactant | ethyl glyoxalate | C(C=O)(=O)OCC | C4H6O3
reactant | piperidine | 36 mmol | N1CCCCC1 | C5H11N
reactant | acetic acid | 72 mmol, 4.2 mL | C(C)(=O)O | C2H4O2
reactant | 1,3-dihydro-indol-2-one | 180 mmol, 24 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | (2-oxo-1,2-dihydro-indol-3-ylidene)-ethyl ethanoate | 18.3 g, 47% | C(C)(=O)OCC=C1C(NC2=CC=CC=C12)=O | C12H11NO3
